US08809363B2
Ethyl 4-chloro-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridine-3-carboxylate
Ethyl 4-hydroxy-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridine-3-carboxylate (Preparation 3, 150 g, 515 mmol) was added portionwise to phosphorus oxychloride (450 mL, 4.92 mol) and the resulting mixture stirred at 100° C. for 1 hour and then cooled to room temperature. The volatiles were removed in vacuo, and the residue was carefully poured into a vigorously stirred ice/water mixture. Ethyl acetate (500 mL) was added to the mixture. The mixture was adjusted to pH 8, by addition of 10M aqueous sodium hydroxide solution. The layers were separated and the aqueous layer was further extracted with ethyl acetate (3×500 mL). The combined organic extracts were washed with brine (300 mL), dried over MgSO4 and concentrated in vacuo. The resulting oil was poured into a crystallisation dish, where it solidified on standing to give the title compound, 140.69 g, in an 88% yield. 1H NMR (400 MHz, CDCl3) δ ppm 1.42 (t, 3H), 1.86-1.89 (m, 4H), 2.59 (s, 3H), 2.82-2.84 (m, 2H), 3.08-3.11 (m, 2H), 4.46 (q, 2H).

reactant | Ethyl 4-hydroxy-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridine-3-carboxylate | 515 mmol, 150 g | OC1=C2C(=NC(=C1C(=O)OCC)C)SC1=C2CCCC1 | C15H17NO3S
reactant | phosphorus oxychloride | 4.92 mol, 450 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | Ethyl 4-chloro-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridine-3-carboxylate | 88% yield | ClC1=C2C(=NC(=C1C(=O)OCC)C)SC1=C2CCCC1 | C15H16ClNO2S
